US07576091B2
3-(2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-ylamino)-phenol
A mixture of 2-methyl-6-morpholin-4-ylmethylene-5,6-dihydro-4H-benzothiazol-7-one (210 mg, 7.94 mmol), N-(3-hydroxy-phenyl)-guanidine nitrate (170 mg, 7.94 mmol), NaOH (32 mg, 7.94 mmol), and 2-methoxyethanol (2 mL) was heated under reflux for 16 h. The reaction mixture was concentrated under vacuum. Flash column chromatography (10% MeOH:EtOAc) gave the pure title product as a yellow solid (20 mg, 8%): mp 310° C. (dec). Anal. RP-HPLC: tR 10.3 min (0-60% MeCN, purity 92%). 1H-NMR (DMSO-d6): δ 9.50 (s, 1H, OH/NH), 9.28 (s, 1H, OH/NH), 8.38 (s, 1H, Py-H), 7.37 (t, 1H, J 2.3, Ph-H), 7.27 (ddd, 1H, J 8.3, 2.3, 0.7, Ph-H), 7.08 (t, 1H, J 8.3, Ph-H), 6.40 (ddd, 1H, J 8.3, 2.3, 0.7, Ph-H), 3.05 (m, 4H, CH2—CH2), 2.78 (s, 3H, CH3). 13C-NMR (DMSO-d6): δ 168.71, 159.05, 158.88, 157.42, 155.97, 155.20, 141.75, 128.81, 127.83, 115.89, 109.69, 108.35, 105.87, 24.72, 23.09, 19.38. MS (ESI+): m/z 311.06 (M+H)+.

reactant | 2-methyl-6-morpholin-4-ylmethylene-5,6-dihydro-4H-benzothiazol-7-one | 7.94 mmol, 210 mg | CC=1SC2=C(N1)CCC(C2=O)=CN2CCOCC2 | C13H16N2O2S
reactant | N-(3-hydroxy-phenyl)-guanidine nitrate | 7.94 mmol, 170 mg | [N+](=O)(O)[O-].OC=1C=C(C=CC1)NC(=N)N
reactant | NaOH | 7.94 mmol, 32 mg | [OH-].[Na+]
solvent | 2-methoxyethanol | 2 mL | COCCO | C3H8O2
product | 3-(2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-ylamino)-phenol | 20 mg, 8% | CC=1SC2=C(CCC=3C=NC(=NC23)NC=2C=C(C=CC2)O)N1 | C16H14N4OS
